US06482986B1
c) 4-Bromo-3,5-dichlorophenylamine
202 g of N-(4-bromo-3,5-dichlorophenyl)acetamide and 220 g of sodium hydroxide (as an aqueous 50% solution) in 670 ml of ethylene glycol are stirred for 5 hours at 120° C. and then for 12 hours at room temperature. 3000 ml of water are added, the mixture is filtered, the organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The residue obtained is crystallized from cyclohexane; m.p.=132° C.

reactant | N-(4-bromo-3,5-dichlorophenyl)acetamide | 202 g | BrC1=C(C=C(C=C1Cl)NC(C)=O)Cl | C8H6BrCl2NO
reactant | sodium hydroxide | 220 g | [OH-].[Na+]
reactant | water | 3000 ml | O | H2O
solvent | ethylene glycol | 670 ml | C(CO)O | C2H6O2
product | 4-Bromo-3,5-dichlorophenylamine | BrC1=C(C=C(C=C1Cl)N)Cl | C6H4BrCl2N
